US04652563
A suspension of 6-[4-(3-bromopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (120 g, 0.355 mol) and benzylamine (152 g, 1.47 mol) in n-propanol (800 ml) was stirred under reflux for 16 hours. The reaction mixture was filtered whilst hot and white solid was collected, which was washed with ether to remove excess benzylamine. The crude material was boiled with ethanol (300 ml) for 2 hours; the mixture was cooled and filtered. The resulting white solid was washed with ether and dried to give 6-[4-(3-benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone (114 g, 88%) as the hydrobromide salt m.p. 279°-285° C.

reactant | 6-[4-(3-bromopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.355 mol, 120 g | BrCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C14H16BrN3O2
reactant | benzylamine | 1.47 mol, 152 g | C(C1=CC=CC=C1)N | C7H9N
solvent | n-propanol | 800 ml | C(CC)O | C3H8O
product | 6-[4-(3-benzylaminopropionamido)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 114 g, 88% | C(C1=CC=CC=C1)NCCC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C21H24N4O2
